US06174901B1
Step A: Preparation of 6-((S)-2-Amino-3-phenylpropylamino)-2-(4-pyridyl)pyridine:
A neat mixture of 6-bromo-[2,4′]bipyridine (2.35 gm, 10 mmole) and (S)-2-amino-3-phenylpropylamine (3 gm, 20 mmole) was heated to 190° C. for 4 hr. The reaction was cooled to rt and purified (SiO2, CH2Cl2/MeOH/NH4OH: 100/11/8) to give the step 1 compound. (This reaction provides major products wherein the less hindered amine functionality displaces the bromide,when the nucleophile is an alkyldiamine) MS (m/z): Calcd. C19H20N4 (M+): 304, found (M+H)+: 305.2.

reactant | 6-bromo-[2,4′]bipyridine | 10 mmole, 2.35 gm | BrC1=CC=CC(=N1)C1=CC=NC=C1 | C10H7BrN2
reactant | (S)-2-amino-3-phenylpropylamine | 20 mmole, 3 gm | N[C@H](CN)CC1=CC=CC=C1 | C9H14N2
product | 6-((S)-2-Amino-3-phenylpropylamino)-2-(4-pyridyl)pyridine | N[C@H](CNC1=CC=CC(=N1)C1=CC=NC=C1)CC1=CC=CC=C1 | C19H20N4
